US04072760
A mixture of 3-(4-nitrobenzamido)-4-hydroxy-α-(tert.butylaminomethyl)benzylalcohol hydrochloride (7.37 g, 0.018 mole), PtO2 (250 mg), and methanol (225 ml) was placed in a pressure hydrogenation apparatus at a starting pressure of 2 atm. The hydrogenation was started, and the calculated amount of hydrogen was taken up within 17 minutes. The hydrogenation was interrupted and the platinum catalyst was filtered off. The clear colorless filtrate was evaporated on a rotary evaporator at 40° - 50° C. The residue, a cream-colored foam (7.3 g), was recrystallized three times from methanol/ether, and 3.50 g (50%), m.p. 228.8° - 230° C, of analytically pure 3-(4-aminobenzamido)-4-hydroxy-α-(tert.butylaminomethyl)benzylalcohol hydrochloride, was obtained.

reactant | 3-(4-nitrobenzamido)-4-hydroxy-α-(tert.butylaminomethyl)benzylalcohol hydrochloride | 0.018 mole, 7.37 g | Cl.[N+](=O)([O-])C1=CC=C(C(=O)NC=2C=C(C(CNC(C)(C)C)O)C=CC2O)C=C1
reactant | hydrogen | [H][H] | H2
catalyst | PtO2 | 250 mg | O=[Pt]=O
solvent | methanol | 225 ml | CO | CH4O
product | 3-(4-aminobenzamido)-4-hydroxy-α-(tert.butylaminomethyl)benzylalcohol hydrochloride | Cl.NC1=CC=C(C(=O)NC=2C=C(C(CNC(C)(C)C)O)C=CC2O)C=C1 | InChI=1S/C19H25N3O3.ClH/c1-19(2,3)21-11-17(24)13-6-9-16(23)15(10-13)22-18(25)12-4-7-14(20)8-5-12;/h4-10,17,21,23-24H,11,20H2,1-3H3,(H,22,25);1H
